US05856503
A mixture of 0.15 g of (4-bromo-phenyl)-[4-[6-(cyclopropyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-methanone, 0.17 g of hydroxylamine.hydrochloride and 0.20 g of sodium acetate in 14 ml of ethanol is heated to 90° C. for 32 hrs. and then concentrated. The residue (containing the oxime corresponding to the starting ketone) is taken up in 50 ml of methylene chloride and washed with saturated aqueous sodium hydrogen carbonate solution and sodium chloride solution. The organic phase is dried and evaporated. The residue is dissolved in 15 ml of DMA and treated with 0.22 g of potassium carbonate. The mixture is heated at 130° C. for 5 hrs. For the working-up, the reaction mixture is filtered, the filtrate is concentrated and the residue is purified by chromatography (silica gel, toluene/acetone/triethylamine 92:7:1). There is obtained 0.077 g of [6-[3-(4-bromo-phenyl)-benzo[d]isoxazol-6-yloxy]hexyl]-cyclopropyl-methyl-amine which is converted into the fumarate, MS: m/e 443 (M+H+, 1 Br).

reactant | (4-bromo-phenyl)-[4-[6-(cyclopropyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-methanone | 0.15 g | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)OCCCCCCN(C)C1CC1)F | C23H27BrFNO2
reactant | hydroxylamine.hydrochloride | 0.17 g | Cl.NO
reactant | sodium acetate | 0.20 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | [6-[3-(4-bromo-phenyl)-benzo[d]isoxazol-6-yloxy]hexyl]-cyclopropyl-methyl-amine | 0.077 g | BrC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OCCCCCCN(C)C2CC2 | C23H27BrN2O2
